US09193728B2
Preparation of N-(propan-2-ylidene)-2-(pyridin-4-yl)-2H-benzo[b][1,4]thiazin-4(3H)-amine
To a solution of 4-nitroso-2-(pyridin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazine (0.3 g, 0.00116 mol) in acetone (12 mL) was added saturated ammonium chloride solution (3 mL) and water (3 mL) at RT, and the resulting brown colored reaction mixture was cooled to −5° C. Zinc dust (0.15 g, 0.00233 mol) was added portionwise at the same temperature and stirred for 10 min. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure and extracted with EtOAc (3×50 mL). The organic layer was dried over anhydrous sodium sulfate, solvent was removed under reduced pressure to obtain product as a brown colored oil (0.25 g).

reactant | 4-nitroso-2-(pyridin-4-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazine | 0.00116 mol, 0.3 g | N(=O)N1C2=C(SC(C1)C1=CC=NC=C1)C=CC=C2 | C13H11N3OS
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
reactant | water | 3 mL | O | H2O
reactant | acetone | 12 mL | CC(=O)C | C3H6O
catalyst | Zinc | 0.00233 mol, 0.15 g | [Zn] | Zn
product | N-(propan-2-ylidene)-2-(pyridin-4-yl)-2H-benzo[b][1,4]thiazin-4(3H)-amine | 0.25 g | CC(C)=NN1C2=C(SC(C1)C1=CC=NC=C1)C=CC=C2 | C16H17N3S
